US04647684
South African OPI specification No. 79/1059 describes a process for the production of 4-amino-6,7-dimethoxy-2-[4-(furo-2-yl)-piperazin-1-yl]-quinazoline (prazosin), in which 3,4-dimethoxyaniline is reacted with S,S-dimethyl-N-cyanodithioimidocarbonate to form N-cyano-N'-(3,4-dimethoxyphenyl)-S-methylisothiourea which is then condensed with 1-(furo-2-yl)-piperazine to form 4-(furo-2-yl)-piperazine-1-[N-cyano-N'-(3,4-dimethoxyphenyl)]-carboximide amide which, in turn, is closed at 180° C. to form the 4-amino-6,7-dimethoxy-2-[4-(furo-2-yl)-piperazin-1-yl]-quinazoline ring.

reactant | 3,4-dimethoxyaniline | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | S,S-dimethyl-N-cyanodithioimidocarbonate | C[S-](C([S-])=NC#N)C
product | N-cyano-N'-(3,4-dimethoxyphenyl)-S-methylisothiourea | C(#N)NC(SC)=NC1=CC(=C(C=C1)OC)OC | C11H13N3O2S
